* OVERALL BEST CANDIDATE: 00_Phase_2_Exact_10_1_Limit_Buck_g4_cand2_b5
* FITNESS SCORE: 0.8572
*
* Generated: 2026-06-05T01:13:11
* Constraint: Phase 2: Exact 10:1 Limit (Buck)
*   vin_min = 45
*   vin_max = 55
*   vout_target = 5
*   efficiency_target = 0.85
*   power_in = 75
* Candidate: 11 of 12
* Grouped name: g4_cand2
*
* 45V to 5V Buck, 75W
Vin in 0 45
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 470u
Rload out 0 0.333
Vgate gate 0 PULSE(0 12 0 1n 1n 11.666u 20u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
