* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_4
* Fitness: 0.5375
*
* --- Active Constraints ---
* _comment: Phase 2: Exact 10:1 Limit (Buck)
* vin_min: 45
* vin_max: 55
* vout_target: 5
* efficiency_target: 0.85
* power_in: 75
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 17.019999
* efficiency: 0.907432
* total_volume_cm3: 10000.000000
* total_components: 4
* ============================

* 45V to 5V Buck, 75W
Vin in 0 45
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 220u
Rload out 0 0.333
Vgate gate sw PULSE(0 12 0 1n 1n 4.166u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end